US06013658
N-((1R)-1-(2-Hydroxyethoxymethyl)-2-phenylethyl)-N-methylcarbamic acid tert-butylester (0.29 g, 0.90 mmol) was dissolved in dichloromethane (3 mL). Trifluoroacetic acid (1 mL) was added. The solution was stirred at 0° C. for 15 min. The solvents were removed in vacuo. The residue was dissolved in dichloromethane (10 mL) and extracted with 1N sodium hydroxide (10 mL). The organic phase was dried over magnesium sulfate. The solvent was removed in vacuo to give 0.11 g of crude 2-((2R)-2-methylamino-3-phenylpropoxy)ethanol, which was used for further syntheses.

reactant | N-((1R)-1-(2-Hydroxyethoxymethyl)-2-phenylethyl)-N-methylcarbamic acid tert-butylester | 0.90 mmol, 0.29 g | C(C)(C)(C)OC(N(C)[C@H](CC1=CC=CC=C1)COCCO)=O | C17H27NO4
reactant | Trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 2-((2R)-2-methylamino-3-phenylpropoxy)ethanol | 0.11 g | CN[C@@H](COCCO)CC1=CC=CC=C1 | C12H19NO2
